US04112095
3-(m-chlorobenzoyl)-2-methylpropionitrile
To a solution of 11.8 g. of α-(m-chlorophenyl)-4-morpholineacetonitrile in 50 ml. of tetrahydrofuran is added 60 drops of a 30% solution of KOH in methanol. To the solution is added 4.62 ml. of methacrylonitrile (temperature rose to 42° C.). After stirring for 1 hr., the mixture is concentrated to dryness and the residue dissolved in methylene chloride. The solution is passed through a short column of hydrous magnesium silicate and the eluent concentrated to give 15.5 g. of a yellow oil. The oil is heated (steam bath) with a mixture of 75 ml. of acetic acid and 5 ml. of water for 1 hr. and the solvent removed under vacuum. Addition of water to the residue gives 11.2 g. of crystals, m.p. 72°-75° C. Recrystallization from methylene chloride-hexane gives 8.95 g. of crystals, m.p. 79.5°-80.5° C.

reactant | α-(m-chlorophenyl)-4-morpholineacetonitrile | ClC=1C=C(C=CC1)C(C#N)N1CCOCC1 | C12H13ClN2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | KOH | [OH-].[K+]
reactant | methacrylonitrile | C(C(=C)C)#N | C4H5N
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(m-chlorobenzoyl)-2-methylpropionitrile | ClC=1C=C(C(=O)CC(C#N)C)C=CC1 | C11H10ClNO
